US08471005B2
1-Fluoro-3-nitro-benzene (1.00 g, 0.00709 mol) and Potassium carbonate (1.47 g, 0.0106 mol) were dissolved in Dimethyl sulfoxide (7.50 mL) and 4-Piperidin-4-yl-morpholine (2.41 g, 0.0142 mol) was added. The reaction was allowed to stir overnight at 90° C. Upon completion of the reaction, the mixture was diluted with ethyl acetate and was poured over water. Combined extracts were then washed with brine and the organics were dried over magnesium sulfate, filtered and reduced. The crude mixture was purified by Isco flash column chromatography (Hexane/Ethyl Acetate). Combined fractions were reduced en vacuo to afford 1.60 g of 4-[1-(3-Nitro-phenyl)-piperidin-4-yl]-morpholine.

reactant | 1-Fluoro-3-nitro-benzene | 0.00709 mol, 1.00 g | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Potassium carbonate | 0.0106 mol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Piperidin-4-yl-morpholine | 0.0142 mol, 2.41 g | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | water | O | H2O
solvent | Dimethyl sulfoxide | 7.50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(3-Nitro-phenyl)-piperidin-4-yl]-morpholine | 1.60 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCC(CC1)N1CCOCC1 | C15H21N3O3
